US08609680B2
Cyano-(5-ethyl-pyridin-2-yl)-acetic acid tert-butyl ester (7.3 g) was mixed with 70 mL of water and 70 mL of 12N HCl and was heated at 104° C. for 3 hours before removing the volatiles in vacuo. Water was added to dissolve the solids and the pH of the solution was adjusted to 9-10 with 2N NaOH. The solution was washed with 2-methylTHF (2×). The aqueous solution was adjusted to pH 4 with 2N HCl and was concentrated under vacuum to an oily solid. The residue was triturated with hot chloroform and heptanes to afford (5-ethylpyridin-2-yl)acetic acid (SM-1ac) as a tan solid (3.88 g, 31%, 3 steps). MS (ES+) 166.1 (M+H)+. 1H NMR (DMSO-d6) δ 1.16 (t, 3H), 2.57 (q, 2H), 3.66 (s, 2H), 7.22 (d, 1H), 7.56 (dd, 1H), 8.31 (d, 1H), 12.44 (br s, 1H).

reactant | Cyano-(5-ethyl-pyridin-2-yl)-acetic acid tert-butyl ester | 7.3 g | C(C)(C)(C)OC(C(C1=NC=C(C=C1)CC)C#N)=O | C14H18N2O2
reactant | HCl | 12N, 70 mL | Cl | ClH
solvent | water | 70 mL | O | H2O
product | (5-ethylpyridin-2-yl)acetic acid | C(C)C=1C=CC(=NC1)CC(=O)O | C9H11NO2
